US05760035
A mixture of 4-(2-dimethylaminoethylidene)-1-(2-phenoxyethyl)piperidine (2.0 g) (The product of Example 37 was treated with aqueous sodium bicarbonate solution and ether. The ether was separated, washed, dried and evaporated to give the free base.) in IMS (200 ml) and a catalytic amount of 10% palladium on charcoal was hydrogenated at atmospheric pressure for 5 hours. The catalyst was removed by filtration. The filtrate was evaporated to give an oil which was dissolved in ether and then acidified with ethereal hydrogen chloride. The precipitate was collected by filtration and recrystallised from IMS to give 4-(2-dimethylamino-ethyl)-1-(2-phenoxyethyl)piperidine dihydrochloride, m.p. 286°-288° C.

reactant | 4-(2-dimethylaminoethylidene)-1-(2-phenoxyethyl)piperidine | 2.0 g | CN(CC=C1CCN(CC1)CCOC1=CC=CC=C1)C | C17H26N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrogen chloride | Cl | ClH
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | 4-(2-dimethylamino-ethyl)-1-(2-phenoxyethyl)piperidine dihydrochloride | Cl.Cl.CN(CCC1CCN(CC1)CCOC1=CC=CC=C1)C | InChI=1S/C17H28N2O.2ClH/c1-18(2)11-8-16-9-12-19(13-10-16)14-15-20-17-6-4-3-5-7-17;;/h3-7,16H,8-15H2,1-2H3;2*1H
